US04621097
A solution of cis-octahydro-1-oxo-2H-isoindole-2acetic acid ethyl ester (17.79 g, 0.079 mole) in methanol (100 ml) is saturated with anhydrous ammonia and the solution is stirred 18 hours at room temperature. The solution is concentrated at reduced pressure to yield a gummy solid. Recrystallization from acetonitrile yields pure cis-octahydro-1-oxo-2H-isoindole-2-acetic acid amide, with mp 142°-144° C.

reactant | cis-octahydro-1-oxo-2H-isoindole-2acetic acid ethyl ester | 0.079 mole, 17.79 g | C(C)OC(CN1C([C@H]2CCCC[C@H]2C1)=O)=O | C12H19NO3
reactant | ammonia | N | H3N
solvent | methanol | 100 ml | CO | CH4O
product | cis-octahydro-1-oxo-2H-isoindole-2-acetic acid amide | O=C1N(C[C@@H]2CCCC[C@H]12)CC(=O)N | C10H16N2O2
